Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
LLQ abdominal pain
 
Major Surgical or Invasive Procedure:
Diagnostic laparoscopy and lysis of adhesions

 
History of Present Illness:
___ year old G2P2 who presents with LLQ pain since 0430. Patient 
was at work when the pain started. It was initially mild 
progressively worsening until about 0630. By then pain was ___ 
and associated with nausea, chills and diaphoresis. Pain is 
constant with intermittent increases in intensity with
radiation to the left side and back. Currently it is about 
___ after morphine total of 12 mg and 1 mg of dilaudid. 
Nausea is also resolved after zofran. She denies abnormal 
discharge, vaginal bleeding, F/C/emesis. dysuria, hematuria, 
change in BMs, dizziness, syncope, CP, SOB.Does not a ___ year 
history of worsening dysphagia. Reports that she chokes whenever 
eating solid food. Has not seen PCP for this complaint yet.
 
Past Medical History:
GYN:
- LMP ___
- Menses regular Q month, light bleeding lasting 3 days.
- No history of STIs
- Last pap ___ at ___ was normal. Denies h/o abnormal paps
- Sexually active with husband of ___ years. 
- Does not use contraception. Has used OCPs in the past
- No desire for future childbearing.

OBHx:
- G2P2
- ___ - LTCS for macrosomia 11 lbs. Male
- ___ - rLTCS. female. ___.

PMH:
- Migraines
- Obesity
- Depression
- Lower back pain.

PSH: 
- LTCS x 2
- Abdominoplasty in ___

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
___ by Dr. ___ 96.8   81   134/87   20  100%RA
GEN: Lying, appears comfortable in general but winces
occassionally particularly with movement
CV: RRR
Lungs: CTAB
Abd: Soft, obese, diffusely tender but particularly in LLQ. No
rebound or guarding. Well healed abdominoplasty incision.
BME: Limited by habitus and bed. Diffusely tender, fullness
appreciated in the LLQ that is very tender to palpation, mild 
RLQ
tenderness. Minimal mobility of uterus but this assessment is
limited by difficulty with exam

 
Pertinent Results:
___ WBC-9.0 RBC-4.11* Hgb-12.4 Hct-36.7 MCV-89 MCH-30.2 
MCHC-33.9 RDW-13.6 Plt ___
___ WBC-10.5 RBC-4.04* Hgb-12.2 Hct-35.5* MCV-88 MCH-30.2 
MCHC-34.4 RDW-13.4 Plt ___
___ WBC-12.1* RBC-4.42 Hgb-13.2 Hct-38.9 MCV-88 MCH-30.0 
MCHC-34.0 RDW-13.8 Plt ___
___ WBC-9.5# RBC-4.99 Hgb-14.9 Hct-43.9 MCV-88 MCH-29.9 
MCHC-34.0 RDW-14.0 Plt ___
___ Neuts-63.6 ___ Monos-3.2 Eos-2.6 Baso-1.7
___ Glucose-101* UreaN-17 Creat-0.8 Na-136 K-5.1 Cl-101 
HCO3-24 AnGap-16
___ blood HCG-<5
Pelvic U/S ___: At site of patien pain, mildly enlarged, 
heterogeneous left ovary  without demonstrable venous or 
arterial flow. Findings are concerning for ovarian torsion and 
GYN consult advised. Findings were immediately reported on the 
ER dashboard and later discussed via telephone with Dr. ___ at 
10:45 a.m. 

 
Brief Hospital Course:
Ms. ___ was admitted to the GYN service for high clinical 
suspicion for
ovarian torsion and ultrasound findings which seemed to support 
this diagnosis.  So she was taken to the OR for a diagnosit 
laparoscopy and LOA which revealed dense abdominal and pelvic 
adhesion and normal appearing ovaries.  Please see operative 
report for full details.  Post-operatively the patient did well. 
 She was able to control her pain with PO pain medication, 
ambulate and void after her foley catheter was removed.  Due to 
extensive dissection around the bowel, her diet was advanced 
slowly resulting in an extra day of stay in the hospital.  By 
post-op day 2 she was tolerating a regular diet.  She was 
discharged on post-op day 2 without complications and with 
follow-up
 
Medications on Admission:
CYCLOBENZAPRINE - 5 mg Tablet - 1 Tablet(s) by mouth once a day
GABAPENTIN - 300 mg Capsule - 1 Capsule(s) by mouth at bedtime
PYRIDOXINE - 50 mg Tablet - 1 Tablet(s) by mouth Daily
RIBOFLAVIN - 100 mg Tablet - four Tablet(s) by mouth daily

 
Discharge Medications:
CYCLOBENZAPRINE - 5 mg Tablet - 1 Tablet(s) by mouth once a day
GABAPENTIN - 300 mg Capsule - 1 Capsule(s) by mouth at bedtime
PYRIDOXINE - 50 mg Tablet - 1 Tablet(s) by mouth Daily
RIBOFLAVIN - 100 mg Tablet - four Tablet(s) by mouth daily
PERCOCET ___ tabs Q6h PRN pain
Ibuprofen 600 mg PO Q6h prn Pain
Colace 100 mg PO BID prn constipation
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal adhesions

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Call your doctor for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  

General instructions:  
* Take your medications as prescribed.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs  
* No strenuous activity, nothing in the vagina (no tampons, no 
douching, no sex), no heavy lifting of objects >10lbs for 6 
weeks.  
* You may eat a regular diet.  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.  
  
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___. 
 
Followup Instructions:
___